US07067540B2
3-chloro-1-(4-{[(cyclopropylmethyl)amino]methyl}-2,6-difluorophenyl)-4-[(2,4-difluorobenzyl)oxy]pyridin-2(1H)-one hydrochloride
The title compound was prepared by direct analogy with replacing iodomethane with bromocyclopropylmethane and extending the reaction time to 6 hours in Step 1. Step 1: 1 tert-butyl 4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzyl(cyclopropylmethyl)carbamate

reactant | bromocyclopropylmethane | BrCC1CC1 | C4H7Br
reactant | tert-butyl 4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzyl(cyclopropylmethyl)carbamate | ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)C1=C(C=C(CN(C(OC(C)(C)C)=O)CC2CC2)C=C1F)F)=O | C28H27ClF4N2O4
product | 3-chloro-1-(4-{[(cyclopropylmethyl)amino]methyl}-2,6-difluorophenyl)-4-[(2,4-difluorobenzyl)oxy]pyridin-2(1H)-one hydrochloride | Cl.ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)C1=C(C=C(C=C1F)CNCC1CC1)F)=O | InChI=1S/C23H19ClF4N2O2.ClH/c24-21-20(32-12-15-3-4-16(25)9-17(15)26)5-6-30(23(21)31)22-18(27)7-14(8-19(22)28)11-29-10-13-1-2-13;/h3-9,13,29H,1-2,10-12H2;1H
